US07470717B2
1H-indazole-3-carboxylic acid (45.2 g, 279 mmol) was suspended in THF (500 mL), and to the suspension were added 1-hydroxybenzotriazole dimethylammonium salt (55.7 g, 308 mmol) obtained in a similar manner to the known method [for example, Synthesis, page 285 (1992)] and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (58.9 g, 307 mmol), followed by stirring at room temperature overnight. The reaction mixture was added with water, was extracted with ethyl acetate, and the organic layer was sequentially washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was recrystallized from mixed solvent of acetone/water to obtain N,N-dimethyl-1H-indazole-3-carboxamide (37.7 g, 71%).

reactant | 1H-indazole-3-carboxylic acid | 279 mmol, 45.2 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | 1-hydroxybenzotriazole dimethylammonium salt | 308 mmol, 55.7 g | C[NH2+]C.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 307 mmol, 58.9 g | Cl.C(C)N=C=NCCCN(C)C
reactant | water | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N,N-dimethyl-1H-indazole-3-carboxamide | 37.7 g, 71% | CN(C(=O)C1=NNC2=CC=CC=C12)C | C10H11N3O
